US08232294B2
Step 8) 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-aminoacetate hydrochloride
To a solution of 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxy-carbonylamino)acetate (190 mg, 0.262 mmol) in 8 mL of ethyl acetate was added a solution of HCl in EtOAc (0.93 mol/L, 5 mL) dropwise. The reaction mixture was stirred at rt for 30 minutes and then filtered. The solid was washed with ethyl acetate (20 mL×3) to afford the title compound as a white solid (54 mg, 30.3%).

reactant | 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-(tert-butoxy-carbonylamino)acetate | 0.262 mmol, 190 mg | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)CCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C39H40FN5O8
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | 0.93 mol/L, 5 mL | CCOC(=O)C | C4H8O2
product | 1-(2-(4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)quinolin-7-yloxy)ethyl)cyclopropyl 2-aminoacetate hydrochloride | 54 mg, 30.3% | Cl.NCC(=O)OC1(CC1)CCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | InChI=1S/C34H32FN5O6.ClH/c1-21-31(33(43)40(39(21)2)23-6-4-3-5-7-23)32(42)38-22-8-11-29(26(35)18-22)45-28-12-16-37-27-19-24(9-10-25(27)28)44-17-15-34(13-14-34)46-30(41)20-36;/h3-12,16,18-19H,13-15,17,20,36H2,1-2H3,(H,38,42);1H
